US06107329
(3S,4S)-2-Amino-1-(3,4-dihydroxy-pyrrolidin-1-yl)-3-phenyl-propan-1-one hydrochloride
(3S,4S)-[1-Benzyl-2-(3,4-dihydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (360 mg, 1.00 mmol) was dissolved in 4 M HCl-dioxane (4 ml) at 25° C. for 3 hours. The mixture was concentrated and the resulting yellow solid triturated with ether and dried. Yield 304 mg, 103%.

reactant | (3S,4S)-[1-Benzyl-2-(3,4-dihydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 1.00 mmol, 360 mg | C(C)(C)(C)OC(NC(C(=O)N1C[C@@H]([C@H](C1)O)O)CC1=CC=CC=C1)=O | C18H26N2O5
reactant | HCl dioxane | 4 M, 4 ml | Cl.O1CCOCC1
product | (3S,4S)-2-Amino-1-(3,4-dihydroxy-pyrrolidin-1-yl)-3-phenyl-propan-1-one hydrochloride | Cl.NC(C(=O)N1C[C@@H]([C@H](C1)O)O)CC1=CC=CC=C1 | InChI=1S/C13H18N2O3.ClH/c14-10(6-9-4-2-1-3-5-9)13(18)15-7-11(16)12(17)8-15;/h1-5,10-12,16-17H,6-8,14H2;1H/t10?,11-,12-;/m0./s1
